US06703425B2
Preparation of N-[3(4-Cyano-3-fluorophenyl)propyl](phenylmethoxy)carboxamide
Scheme IIIb, step A: 4-Bromo-2-fluorobenzonitrile (3 g, 15 mmol), (phenylmethoxy)-N-prop-2-enylcarboxamide (3.44 g, 18 mmol), 9-BBN dimer (2.93 g, 12 mmol), [1,1′bis(diphenylphosphino)ferrocene] dichloropalladium (II), PdCl2(dppf) (0.61 g, 0.75 mmol), 3N sodium hydroxide (10 mL), and pH=7 buffer: hydrogen peroxide (2:1, 20 mL) are combined in a manner analogous to the procedure described in example 6 to provide the intermediate title compound, N-[3-(4-cyano-3-fluorophenyl)propyl](phenylmethoxy)carboxamide, (4.18, 89%). Electron spray M.S. 313 (M*+H).

reactant | 4-Bromo-2-fluorobenzonitrile | 15 mmol, 3 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | (phenylmethoxy)-N-prop-2-enylcarboxamide | 18 mmol, 3.44 g | C1(=CC=CC=C1)COC(=O)NCC=C | C11H13NO2
reactant | 9-BBN dimer | 12 mmol, 2.93 g | C12B([H]B34C5CCCC3CCC5)([H]4)C(CCC2)CCC1 | C16H30B2
reactant | sodium hydroxide | 3N, 10 mL | [OH-].[Na+]
catalyst | [1,1′bis(diphenylphosphino)ferrocene] dichloropalladium (II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | PdCl2(dppf) | 0.75 mmol, 0.61 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | hydrogen peroxide | 20 mL | OO | H2O2
product | N-[3-(4-cyano-3-fluorophenyl)propyl](phenylmethoxy)carboxamide | C(#N)C1=C(C=C(C=C1)CCCNC(=O)OCC1=CC=CC=C1)F | C18H17FN2O2
